US06194406B1
2-Methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoic Acid
Combine methyl 2-methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoate (5 mmol), methanol (10 mL), and a 1 M aqueous sodium hydroxide solution (6 mL, 6.0 mmol). After 18 hours, evaporate in vacuo to give a residue. Combine the residue, water (5 mL) and acidify by dropwise addition of a 1 M aqueous hydrochloric acid solution (6.5 mL). Evaporate in vacuo to give a residue. Combine the residue and dichloromethane and stir. Decant and add dichloromethane and stir. Decant and combine with the first decantate. Dry over Na2SO4, filter, and concentrate in vacuo to give the title compound.

reactant | methyl 2-methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoate | 5 mmol | COC1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1S(=O)(=O)C | C11H12N4O5S
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium hydroxide | 6.0 mmol, 1 M, 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 6.5 mL | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 5 mL | O | H2O
product | 2-Methoxy-5-(5-methylsulfonyl-1H-tetrazol-1-yl)benzoic Acid | COC1=C(C(=O)O)C=C(C=C1)N1N=NN=C1S(=O)(=O)C | C10H10N4O5S
